US04051076
5,5,7-trimethyl-9-oxatricyclo[6.4.0.02,7 ]dodecane-3-one
To a 5-liter round bottomed flask equipped with a quartz immersion well and nitrogen bubbler was added, under nitrogen, 138 g. (1.0 mol.) of isophorone and 498 g. (5.93 mol.) of 3,4-dihydropyran. Enough dichloromethane was added to fill the flask. The solution was bubbled with nitrogen for 1.5 hours and was irradiated with a 450 watt Hanovia medium pressure mercury arc through a Corning 9700 glass filter for 20.5 hours. When the photolysis was completed, the solution was concentrated in vacuo to yield 107.9 g. (0.486 mol.) of a crystalline solid and 80.6 g. of a liquid (0.363 mol.) (Total yield 0.849 mol., 85%). The solid after sublimation and recrystallization had m.p. 111°-112.2° C. IR: 1690 cm-1NMR: (CCl4) 0.92δ (S-3H), 1.12δ (S-3H); 1.32δ (S-3H); 1.35-2.15δ (multiplets 8H); 2.35δ (triplet-2H, J=14Hz); 2.65-2.93δ (M-1H); 3.38-4.20δ (M-2H). The liquid, which had b.p. 101° C./0.3 mm.Hg. was found by glpc to consist of a lower boiling minor component, the solid and a higher boiling product. Redistillation of this fraction gave a fraction, b.p. 85°-90° C./0.1 mm.Hg. which had a NMR (CCl4) spectrum which had methyl singlets at 0.92δ, 1.03δ, 1.10δ and 1.30δ. The singlet at 1.30δ belonged to the solid component, which made up 34% of the mixture. IR: 1695 cm-1.

reactant | isophorone | 1.0 mol | O=C1C=C(CC(C)(C)C1)C | C9H14O
reactant | 3,4-dihydropyran | 5.93 mol | O1CCCC=C1 | C5H8O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5,5,7-trimethyl-9-oxatricyclo[6.4.0.02,7 ]dodecane-3-one | CC1(CC(C2C3CCCOC3C2(C1)C)=O)C | C14H22O2
